data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_395849_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])(/[C:5]([C:4]([H:17])([H:18])[H:19])=[N:8]/[O:7][H:10])[O:6][H:9]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])[C:5]([C:4]([H:17])([H:18])[H:19])([O:6][H:9])[N:8]1[O:7][H:10],71.11018250002303
MR_48255_1,[C:1]1([C:4]([H:14])([H:15])[H:16])([H:7])[C:2]([C:5]([H:12])([H:13])[H:17])([H:8])[N:6]1[C:3]([H:9])([H:10])[H:11]>>[C:1](\[C:2]([C:4]([H:14])([H:15])[H:16])([C:5]([H:12])([H:13])[H:17])[H:8])(=[N:6]/[C:3]([H:9])([H:10])[H:11])[H:7],65.43883750000276
MR_635303_1,[C:1](/[C:4](=[C:7](/[C:2](=[C:3]([N:5]([H:12])[H:13])[N:6]([H:14])[H:15])[O:8][H:10])[H:16])[O:9][H:11])([H:17])([H:18])[H:19]>>[C:1]([C:4]1([O:9][H:11])[C:3]([N:5]([H:12])[H:13])([N:6]([H:14])[H:15])[C:2]([O:8][H:10])=[C:7]1[H:16])([H:17])([H:18])[H:19],51.04210499996839
MR_575612_1,[C:1](\[N:2]([H:10])[H:11])(=[C:3](\[N:6](/[C:4](=[N:7]\[H:12])[H:14])[O:5][H:8])[H:13])[H:9]>>[C:1]([N:2]([H:10])[H:11])(/[C:3](=[N:6]/[O:5][H:8])[H:13])(/[C:4](=[N:7]\[H:12])[H:14])[H:9],54.55171249998912
MR_557364_1,[C:1](=[C:2]([N:3]([H:11])[H:12])/[C:5](=[C:6](/[N:4]([H:13])[H:14])[H:16])[H:15])([O:7][H:9])[O:8][H:10]>>[C:1]1([O:7][H:9])([O:8][H:10])[C:2]([N:3]([H:11])[H:12])=[C:5]([H:15])[C@:6]1([N:4]([H:13])[H:14])[H:16],35.13748999996011
MR_326488_1,[C:1]([C:2]([N:5]=[C:4]([H:16])[H:17])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([O:7][H:9])[N:8]([C:6]([H:18])([H:19])[H:20])[H:10]>>[C:1]([C:2]([N:5]([C:4]([H:16])([H:17])[H:18])[H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([O:7][H:9])[N:8]=[C:6]([H:19])[H:20],56.09096999999082
MR_74174_2,[C@@:1]1([C:3]([H:10])([H:11])[H:12])([C:5](=[O:7])[H:9])[C@@:2]([C:4]([H:13])([H:14])[H:15])([H:8])[O:6]1>>[C:1](=[C:2](\[C:4]([H:13])([H:14])[H:15])[H:8])(\[C:3]([H:10])([H:11])[H:12])[O:6][C:5](=[O:7])[H:9],57.34283250000473
MR_409804_1,[C:1]([C:3]([N:4]([H:11])[H:12])=[O:8])(/[C:5](=[N:7]/[C:2]([H:14])([H:15])[H:16])[H:13])([O:6][H:9])[H:10]>>[C:1](=[C:5](/[N:7]([C:2]([H:14])([H:15])[H:16])[C:3]([N:4]([H:11])[H:12])=[O:8])[H:13])(\[O:6][H:9])[H:10],62.94201499995751
MR_140313_0,[C:1]([C:4](=[C:5](\[C:2]([H:18])([H:19])[H:20])[N:7]([H:10])[H:11])/[C:6]([C:3]([H:21])([H:22])[H:23])=[C:9](\[N:8]([H:12])[H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:4]1=[C:6]([C:3]([H:21])([H:22])[H:23])[C:9]([N:8]([H:12])[H:13])([H:14])[C:5]1([C:2]([H:18])([H:19])[H:20])[N:7]([H:10])[H:11])([H:15])([H:16])[H:17],54.97652999998664
MR_287175_0,[C:1]([C:3](=[C:2]([O:4][H:9])[O:5][H:8])[N:6]=[O:7])([H:10])([H:11])[H:12]>>[C:1]([C:3]1=[N:6][O:7][C:2]1([O:4][H:9])[O:5][H:8])([H:10])([H:11])[H:12],32.18823999998705
MR_309220_2,[C:1]([O:5][C:2](/[C:3](=[N:6]/[H:7])[H:8])=[C:4]([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:4]([H:12])[H:13])[O:5]/[C:3](=[N:6]/[H:7])[H:8])([H:9])([H:10])[H:11],71.19363999999067
MR_192306_0,[C:1]([N:3]1[C:5]2([H:8])[N:6]1[C:4]([C:2]([H:12])([H:13])[H:14])=[N:7]2)([H:9])([H:10])[H:11]>>[C:1]([n:3]1[c:5]([H:8])[n:7][c:4]([C:2]([H:12])([H:13])[H:14])[n:6]1)([H:9])([H:10])[H:11],14.433127500013825
MR_372353_1,[C:1]1([N:4]([H:9])[H:10])([H:8])[C:3]2([C:2]([H:12])([H:13])[H:14])[N:6]1[C:5]([H:11])=[N:7]2>>[C:1]1([N:4]([H:9])[H:10])([H:8])[C:3]([C:2]([H:12])([H:13])[H:14])=[N:7][C:5]([H:11])=[N:6]1,10.98313249998526
MR_688453_0,[C:1]([C:4](/[C:3](=[N:2]\[H:9])[O:6][C:5](=[O:8])[H:10])=[O:7])([H:11])([H:12])[H:13]>>[C:1]([C:4]([C:3]([N:2]([C:5](=[O:8])[H:10])[H:9])=[O:6])=[O:7])([H:11])([H:12])[H:13],21.639965000009624
MR_534645_0,[C:1]([N:4]([N:5]([O:8][H:9])[H:10])/[C:6]([C:2]([H:15])([H:16])[H:17])=[C:7](/[C:3]([H:18])([H:19])[H:20])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[N:4]=[C:6](\[C:2]([H:15])([H:16])[H:17])[C:7]([C:3]([H:18])([H:19])[H:20])([N:5]([O:8][H:9])[H:10])[H:11])([H:12])([H:13])[H:14],50.52127999999925
MR_122380_1,[C:1]1([H:10])([H:11])[C@@:4]([O:7][C:2]([N:3]([H:8])[H:9])=[O:6])([H:12])[O:5]1>>[C:1]([C:2]([N:3]([H:8])[H:9])=[O:6])([O:5][C:4](=[O:7])[H:12])([H:10])[H:11],57.21293999997599
MR_201028_0,[C:1]1([C:3]([H:12])([H:13])[H:14])([N:4]([H:9])[H:10])[C:2]([C:5](=[C:6]([H:15])[H:16])[H:11])([H:8])[O:7]1>>[C:1]([C:2](=[O:7])[H:8])([C:3]([H:12])([H:13])[H:14])([N:4]([H:9])[H:10])[C:5](=[C:6]([H:15])[H:16])[H:11],25.581919999973195
MR_348386_0,[C:1]([N:5]([C:2]([H:13])([H:14])[H:16])[N:4]([N:6]([H:9])[H:10])[N:7][N:8][C:3]([H:17])([H:18])[H:19])([H:11])([H:12])[H:15]>>[C:1]([N:5]([C:2]([H:13])([H:14])[H:16])[N:8]([C:3]([H:17])([H:18])[H:19])/[N:7]=[N:4]\[N:6]([H:9])[H:10])([H:11])([H:12])[H:15],56.27106249999983
MR_66428_1,[N:1]([C:2]([N:5]([H:12])[H:13])=[O:8])(/[C:3]([N:6]([H:14])[H:15])=[N:7]/[N:4]([H:10])[H:11])[H:9]>>[N:1](=[C:3](/[N:6]([H:14])[H:15])[N:7]([C:2]([N:5]([H:12])[H:13])=[O:8])[N:4]([H:10])[H:11])\[H:9],44.09379749999758
